US06348459B1
Step 5 Preparation of 4-(2-fluoro-4-nitrophenyl)tetrahydro-2-(2-propenyl)-2H-1,2-thiazine 1,1-dioxide
Anhydrous potassium carbonate (3.6 g, 26.1 mmol) is added to a solution of 4-(2-fluoro-4-nitrophenyl)tetrahydro-2 H-1,2-thiazine 1,1-dioxide (1.795 g, 6.54 mmol) and allyl bromide (2.0 ml, 23.1 mmol) in dry acetonitrile (25 ml). The mixture is heated to reflux for 5 min then cooled. After filtration and evaporation the residue is chromatographed over silica gel (150 g) eluting with 0-1% methanol-chloroform. The title compound is obtained as flakes (1.70 g, 83%) mp 121°.

reactant | potassium carbonate | 26.1 mmol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-fluoro-4-nitrophenyl)tetrahydro-2 H-1,2-thiazine 1,1-dioxide | 6.54 mmol, 1.795 g | FC1=C(C=CC(=C1)[N+](=O)[O-])C1CNS(CC1)(=O)=O | C10H11FN2O4S
reactant | allyl bromide | 23.1 mmol, 2.0 ml | C(C=C)Br | C3H5Br
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 4-(2-fluoro-4-nitrophenyl)tetrahydro-2-(2-propenyl)-2H-1,2-thiazine 1,1-dioxide | FC1=C(C=CC(=C1)[N+](=O)[O-])C1CN(S(CC1)(=O)=O)CC=C | C13H15FN2O4S
